US08049015B2
Benzyl-[2-(5-bromo-2-methoxy-pyridin-3-yl)-5-trifluoromethyl-benzyl]-amine and acetyl chloride were reacted as described in Example 11, Step 2 to provide N-benzyl-N-[2-(5-bromo-2-methoxy-pyridin-3-yl)-5-trifluoromethyl-benzyl]-acetamide.

reactant | Benzyl-[2-(5-bromo-2-methoxy-pyridin-3-yl)-5-trifluoromethyl-benzyl]-amine | C(C1=CC=CC=C1)NCC1=C(C=CC(=C1)C(F)(F)F)C=1C(=NC=C(C1)Br)OC | C21H18BrF3N2O
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-benzyl-N-[2-(5-bromo-2-methoxy-pyridin-3-yl)-5-trifluoromethyl-benzyl]-acetamide | C(C1=CC=CC=C1)N(C(C)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1C(=NC=C(C1)Br)OC | C23H20BrF3N2O2
